US05523403
(±)-N-[[3-[4-(4-ethoxy-5-oxo-1,3,6-cycloheptatrien-1-yl)phenyl]-2-oxo-5-oxazolidinyl]methyl]acetamide
A slurry of (±)-N-[[3-[4-(4-methoxy-5-oxo-1,3,6-cycloheptatrien-1-yl)phenyl]-2-oxo-5-oxazolidinyl]methyl]acetamide (0.100 g, 0.27 mmol) in absolute ethanol (10 mL) was treated with a catalytic quantity of sodium hydride (5 mg of a 60% dispersion in mineral oil). The mixture was heated to reflux under nitrogen, during which time the mixture became a homogeneous solution. After 15 min of reflux the solution was cooled to ambient temperature and a solid precipitate noted. The reaction mixture was diluted with diethyl ether and the solids collected by filtration. After drying in vacuo, 0.088 g (85%) of the title compound was obtained as a light yellow solid with the following characteristics:

reactant | (±)-N-[[3-[4-(4-methoxy-5-oxo-1,3,6-cycloheptatrien-1-yl)phenyl]-2-oxo-5-oxazolidinyl]methyl]acetamide | 0.27 mmol, 0.100 g | COC1=CC=C(C=CC1=O)C1=CC=C(C=C1)N1C(OC(C1)CNC(C)=O)=O | C20H20N2O5
reactant | sodium hydride | [H-].[Na+]
reactant | ethanol | 10 mL | C(C)O | C2H6O
solvent | diethyl ether | C(C)OCC | C4H10O
product | (±)-N-[[3-[4-(4-ethoxy-5-oxo-1,3,6-cycloheptatrien-1-yl)phenyl]-2-oxo-5-oxazolidinyl]methyl]acetamide | 0.088 g, 85% | C(C)OC1=CC=C(C=CC1=O)C1=CC=C(C=C1)N1C(OC(C1)CNC(C)=O)=O | C21H22N2O5
